US06610734B2
Triethylamine (6.85 g, 49.15 mmol) and trimethyl acetyl chloride (6.05 mL, 49.15 mmol) were added dropwise (5 min) to a −78° C. solution of 2-heptenoic acid (6 g, 46.81 mmole) in THF (80 mL). The slurry was stirred at −78° C. for 5 min and then replaced with a 0° C. cooling system. It was stirred at this temperature for 1 h. In a separate flask, a solution of R-(+)-4-benzyl-2-oxazolidinone (8.295 g, 46.81 mmol) was cooled to −78° C. and nBuLi (1.6M, 46.8 mmol) was added dropwise over 10 min. The colorless solution was stirred at this temperature for 45 min and transferred via cannula to a −78° C. solution of the ester. The yellowish slurry was warmed to 25° C. overnight (19 h). An aliquot was taken and TLC (1:1 EtOAc-hexane) indicated that reaction was complete. It was cooled to 0° C. and the reaction was quenched by addition of H2O (20 mL). It was diluted with ethyl acetate (200 mL) and the organic layer was separated. The organic layer was dried over MgSO4, filtered, and concentrated to obtain a crude yellow oil (13.69 g). The crude product was purified by column chromatography, silica gel 230 to 400 mesh, eluent: 1:4 EtOAc-hexane to obtain (4R)-4-benzyl-3-[(E)-2-heptenoyl]-1,3-oxazolidin-2-one as a colorless oil (12.1 g, 92.80%). Mass Spectrum (−ESI): 288 (M−H)−.

reactant | Triethylamine | 49.15 mmol, 6.85 g | C(C)N(CC)CC | C6H15N
reactant | trimethyl acetyl chloride | 49.15 mmol, 6.05 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | 2-heptenoic acid | 46.81 mmole, 6 g | C(C=CCCCC)(=O)O | C7H12O2
reactant | R-(+)-4-benzyl-2-oxazolidinone | 46.81 mmol, 8.295 g | C1C(NC(=O)O1)CC2=CC=CC=C2 | C10H11NO2
reactant | nBuLi | 46.8 mmol, 1.6M | [Li]CCCC
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | (4R)-4-benzyl-3-[(E)-2-heptenoyl]-1,3-oxazolidin-2-one | 12.1 g, 92.80% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(\C=C\CCCC)=O | C17H21NO3
